US03948996
To 350 ml. of ethanol, 105 ml. of water and 70 ml. of 50% aqueous sodium hydroxide is added 46.5 g. of methyl 11-methylthio-3,7,11-trimethyldodeca-2,4-dienoate. The mixture is refluxed for about 18 hours. After cooling, alcohol is removed in vacuo. Water is added followed by acidification and then extraction with ether to yield 11-methylthio-3,7,11-trimethyldodeca-2,4-dienoic acid.

reactant | ethanol | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methyl 11-methylthio-3,7,11-trimethyldodeca-2,4-dienoate | CSC(CCCC(CC=CC(=CC(=O)OC)C)C)(C)C | C17H30O2S
solvent | water | O | H2O
product | 11-methylthio-3,7,11-trimethyldodeca-2,4-dienoic acid | CSC(CCCC(CC=CC(=CC(=O)O)C)C)(C)C | C16H28O2S
